* Q2SK3018 NMOSFET model
* SubCkt Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2009/04/07
*****************D G S
.SubCkt Q2SK3018 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 3.53
D2       11 21 DDG 4
D3       22 21 DDG
R2        2 22 3900
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=.1
+ KP=5.4841E-6
+ RS=10.000E-3
+ RD=0
+ VTO=1.4898
+ RDS=30.000E6
+ TOX=2.0000E-6
+ CGSO=62p
+ CGDO=15p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=1.4
+ ETA=0.0001
+ KAPPA=0
.MODEL DDS D
+ IS=33.796E-15
+ N=.99155
+ RS=.32279
+ IKF=15.202E-3
+ CJO=14.243E-12
+ M=.45123
+ VJ=.54499
+ BV=30
+ TT=38n
.MODEL DDG D
+ CJO=14.499E-12
+ M=.73773
+ VJ=.50846
.MODEL RTH RES
+ TC1=0.0035
+ TC2=0.000009
.ENDS Q2SK3018
